US06949579B2
930 mg of 4-benzyloxyphenylboronic acid, 1.24 g of caesium fluoride, 13 mg of palladium acetate and finally 31 mg of 2-dicyclohexylphosphine-2-(N,N-dimethylamino)biphenyl are added to 1 g of N-[6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously in Example 25, in 30 cm3 of dioxane. The mixture is then heated at about 100° C. for 5 hours. The mixture is then allowed to return to about 19° C. and is then filtered through a sinter funnel and evaporated under reduced pressure (2 kPa; 50° C.). The residue is rinsed with 50 cm3 of tetrahydrofuran and 50 cm3 of distilled water. The resulting residue is taken up in 150 cm3 of ethyl acetate, 50 cm3 of distilled water and 50 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered through a sinter funnel and then evaporated under reduced pressure under the conditions described previously. The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3.5 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume) and collecting 35 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). 1.2 g of N-[6-[4-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are thus obtained in the form of an orange-coloured oil.

reactant | 4-benzyloxyphenylboronic acid | 930 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | caesium fluoride | 1.24 g | [F-].[Cs+]
reactant | N-[6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | ClC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26ClN3O2Si
solvent | dioxane | 30 cm3 | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 13 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[6-[4-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.2 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C30H37N3O3Si
